US07566699B2
2′-Carboxymethoxy-6′-hydroxy-3-(2-hydroxyethoxy)dihydrochalcone
To a suspension of 6′-hydroxy-2′-(methoxycarbonylmethoxy)acetophenone (1 g) and 3-(2-hydroxyethoxy)benzaldehyde (0.74 g) in ethanol (12 mL) were added water (3 mL) and potassium hydroxide (3 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 10% palladium-carbon powder (0.2 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 8 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was dissolved in water, and the solution was washed with diethyl ether. The aqueous layer was acidified by addition of concentrated hydrochloric acid, and the resulting mixture was extracted with ethyl acetate twice. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was treated with diethyl ether, and the precipitated crystals were collected by filtration. The crystals were dried under reduced pressure to give the title compound (1.6 g).

reactant | 6′-hydroxy-2′-(methoxycarbonylmethoxy)acetophenone | 1 g | OC1=CC=CC(=C1C(C)=O)OCC(=O)OC | C11H12O5
reactant | 3-(2-hydroxyethoxy)benzaldehyde | 0.74 g | OCCOC=1C=C(C=O)C=CC1 | C9H10O3
reactant | water | 3 mL | O | H2O
reactant | potassium hydroxide | 3 g | [OH-].[K+]
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | 2′-Carboxymethoxy-6′-hydroxy-3-(2-hydroxyethoxy)dihydrochalcone | 1.6 g | C(=O)(O)COC1=C(C(C=CC2CC(=CC=C2)OCCO)=O)C(=CC=C1)O | C19H20O7
